US05214143
2-Amino-4-ethoxy-6-trifluoromethoxy-1,3,5-triazine
2.3 g (0.093 mol) of 97% sodium hydride were added a little at a time to 300 ml of ethanol at 20°-35° C. and dissolved by stirring for 15 minutes. Then, while stirring at 0° C., 18.5 g (0.093 mol) of 2-amino-4-fluoro-6-trifluoromethoxy-1,3,5-triazine were added over the course of 10 minutes, and the mixture was stirred at 0° C. for 1 hour and at 22° C. overnight. The residue from concentration under reduced pressure was taken up in methylene chloride, extracted with water and dried. Concentration yielded 17.9 g (85.9% of theory) of the title compound of melting point 69°-71° C.

reactant | sodium hydride | 0.093 mol, 2.3 g | [H-].[Na+]
reactant | 2-amino-4-fluoro-6-trifluoromethoxy-1,3,5-triazine | 0.093 mol, 18.5 g | NC1=NC(=NC(=N1)F)OC(F)(F)F | C4H2F4N4O
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | 2-Amino-4-ethoxy-6-trifluoromethoxy-1,3,5-triazine | NC1=NC(=NC(=N1)OCC)OC(F)(F)F | C6H7F3N4O2
